US04769472
3-(2-Methoxyphenyl)thieno[2,3-d]isoxazole
A solution of 12.0 g of (3-bromothien-2-yl) (2-methoxyphenyl)methanone oxime in 220 ml of ethoxyethanol was combined with 15 ml of water containing 4.3 g of potassium hydroxide pellets (85%) and the mixture was stirred at 110° for 10 minutes and thereafter 0.28 g of cuprous chloride was added. Stirring was maintained at this temperature under nitrogen for one hour.

reactant | (3-bromothien-2-yl) (2-methoxyphenyl)methanone oxime | 12.0 g | BrC1=C(SC=C1)C(=NO)C1=C(C=CC=C1)OC | C12H10BrNO2S
reactant | water | 15 ml, 4.3 g | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethoxyethanol | 220 ml | C(C)OC(C)O | C4H10O2
product | 3-(2-Methoxyphenyl)thieno[2,3-d]isoxazole | COC1=C(C=CC=C1)C1=NOC2=C1SC=C2 | C12H9NO2S
